US07816540B2
Bicyclo[2.2.1]heptane-7-carbaldehyde
15.9 g (81 mmol) of 7-Bromo-bicyclo[2.2.1]heptane were added dropwise to 2 g magnesium (81 mmol) in 25 ml of diethyl ether and refluxed for 2.5 h. The mixture was cooled to 0-5° C. and 6.3 ml (81 mmol) of DMF were added dropwise. The mixture was then refluxed for 2 h, cooled to room temperature and the white solid filtered off and washed with ether. The filtrate was reduced and 4.87 g of a white solid were obtained. The intermediate was used without further characterization.

reactant | 7-Bromo-bicyclo[2.2.1]heptane | 81 mmol, 15.9 g | BrC1C2CCC1CC2 | C7H11Br
reactant | magnesium | 81 mmol, 2 g | [Mg] | Mg
reactant | DMF | 81 mmol, 6.3 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | Bicyclo[2.2.1]heptane-7-carbaldehyde | 4.87 g | C12CCC(CC1)C2C=O | C8H12O
